// tb_fdota_stb_cmfb.scs (SKY130) -- fully-differential two-stage OTA with
// continuous-time CMFB, closed-loop inverting bench (R1=R2=100k), probe
// pair at the OTA outputs BEFORE the CMFB sense taps and the feedback
// taps (Saxena placement doctrine; the Miller networks stay amp-side).
// fd_probe is a clean-room diffstbprobe: two ideal baluns back-to-back
// with an iprobe in the DM wire and one in the CM wire (Wiedmann).
//   spectre tb_fdota_stb_cmfb.scs -format psfascii -raw ./psf_cmfb +log cmfb.log
simulator lang=spectre
global 0 vdd!
parameters temperature=27
include "<pdk-models>" section=tt

// Library name: analogLib
// Cell name: ideal_balun
subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

// clean-room differential stability probe (analogLib diffstbprobe
// equivalent): DC-transparent; stb probe=<inst>.IPRB_DM or .IPRB_CM
subckt fd_probe in1 in2 out1 out2
    BI (dmi cmi in1 in2) ideal_balun
    BO (dmo cmo out1 out2) ideal_balun
    IPRB_DM (dmi dmo) iprobe
    IPRB_CM (cmi cmo) iprobe
ends fd_probe

// fully-differential two-stage OTA, per-side mirror of the flagship
// ota2s (same W/L/m -> same operating region); stage-1 pmos loads are
// gate-driven by the CMFB error amp whose diode load is their mirror
// master (10u diode m=1 : 20u loads m=2).
subckt fdota2s outp outn vdd inp inn vss vbn vcmsense vcmref
    // stage 1
    MN2 (tail vbn vss vss) nfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(2)*(1)
    MN1P (x1p inp tail vss) nfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
    MN1N (x1n inn tail vss) nfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
    MPLP (x1p vcmfbg vdd vdd) pfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(2)*(1)
    MPLN (x1n vcmfbg vdd vdd) pfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(2)*(1)
    // stage 2 (per side) with Miller compensation
    MP2P (outp x1p vdd vdd) pfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(4)*(1)
    MN3P (outp vbn vss vss) nfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(4)*(1)
    MP2N (outn x1n vdd vdd) pfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(4)*(1)
    MN3N (outn vbn vss vss) nfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(4)*(1)
    CCP (netp outp) capacitor c=16p
    RZP (x1p netp) resistor r=0
    CCN (netn outn) capacitor c=16p
    RZN (x1n netn) resistor r=0
    // CMFB error amp: nmos pair (sense vs ref), diode pmos loads; the
    // sense-side diode MPA is the mirror master for MPLP/MPLN
    IPRB_CMFB (vcmfb vcmfbg) iprobe
    MNT (ctail vbn vss vss) nfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
    MNS (vcmfb vcmsense ctail vss) nfet_01v8 w=(40u) l=2u as=10.6p \
        ad=10.6p ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
    MNR (dumm vcmref ctail vss) nfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
    MPA (vcmfb vcmfb vdd vdd) pfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
    MPB (dumm dumm vdd vdd) pfet_01v8 w=(40u) l=2u as=10.6p ad=10.6p \
        ps=80.53u pd=80.53u nrd=0.008500 nrs=0.008500 m=(1)*(1)
ends fdota2s

// ---- bench: inverting amp, gain -1 per side, DM drive via balun ----
VSUP (vdd! 0) vsource dc=1.8 type=dc
VIND (vin_dm 0) vsource dc=0 mag=1 type=dc
VINC (vin_cm 0) vsource dc=900.0m type=dc
VCMR (vcmref 0) vsource dc=900.0m type=dc
I5 (vin_dm vin_cm srcp srcn) ideal_balun
R1A (srcp inn) resistor r=100k
R1B (srcn inp) resistor r=100k
R2A (voutp inn) resistor r=100k
R2B (voutn inp) resistor r=100k
I0 (outpi outni vdd! inp inn 0 vbn vcm_sense vcmref) fdota2s
FDPRB (outpi outni voutp voutn) fd_probe
CLP (voutp 0) capacitor c=5p
CLN (voutn 0) capacitor c=5p
RCMA (voutp vcm_sense) resistor r=1M
RCMB (voutn vcm_sense) resistor r=1M
CCMA (voutp vcm_sense) capacitor c=200f
CCMB (voutn vcm_sense) capacitor c=200f
IB (vdd! vbn) isource dc=40u type=dc
MN2 (vbn vbn 0 0) nfet_01v8 w=(40u) l=1u as=10.6p ad=10.6p ps=80.53u \
        pd=80.53u nrd=0.008500 nrs=0.008500 m=(2)*(1)

simulatorOptions options psfversion="1.4.0" temp=27 tnom=27 scalem=1.0 \
    scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 \
    pivrel=1e-3
stb stb start=1m stop=10G dec=20 probe=I0.IPRB_CMFB annotate=status
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
saveOptions options save=allpub
